US04544753
b. (4-Amino-5-methylisoxazol-3-yl)-2-chlorophenylmethanone
A solution of (5-methyl-4-nitroisoxazol-3-yl)-2-chlorophenylmethanone of Example IIIa (5.3 g, 20 mmoles) in tetrahydrofuran (THF) (25 ml) was added to a mixture of SnCl2. 2H2O (18 g, 80 mmoles) in concentrated hydrochloric acid (35 ml) and THF (20 ml) over 1 hour. After stirring overnight at room temperature (about 16 hours), the reaction mixture was poured into cold 10% sodium hydroxide (500 ml) with stirring and extracted with ethyl acetate. The extracts were washed with dilute sodium chloride and dried (sodium sulfate). Concentration gave an oil which was flash chromatographed (20% ethyl acetate:hexane) to yield 3.0 g (64%) of an oil that solidified. The resultant amine was triturated with cyclohexane (40 ml) to yield 2.4 g (51%) of a powder, melting point 75°-78° C.

reactant | (5-methyl-4-nitroisoxazol-3-yl)-2-chlorophenylmethanone | CC1=C(C(=NO1)C(=O)C1=C(C=CC=C1)Cl)[N+](=O)[O-] | C11H7ClN2O4
reactant | SnCl2 | Cl[Sn]Cl
reactant | sodium hydroxide | 500 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | hydrochloric acid | 35 ml | Cl | ClH
solvent | THF | 20 ml | O1CCCC1 | C4H8O
product | (4-Amino-5-methylisoxazol-3-yl)-2-chlorophenylmethanone | 3.0 g, 64% | NC=1C(=NOC1C)C(=O)C1=C(C=CC=C1)Cl | C11H9ClN2O2
